US04732903
Under inert atmosphere, a mixture of 1.02 g of (S)α-cyano-3-phenoxy-benzyl(1R,cis)2,2-dimethyl-3-[(Z)3-chloro-3-oxo-1-propenyl)-cyclopropane-carboxylate prepared by reaction of thionyl chloride and (S)α-cyano-3-phenoxy-benzyl(1R,cis)2,2-dimethyl-3-[(Z)3-hydroxy-3-oxo-1-propenyl]-cyclopropane-carboxylate and 9 ml of methylene chloride were stirred and 1.12 g of 1-methyl-1-trifluoromethyl-ethanol were added thereto. The mixture was stirred for 48 hours at room temperature and was then evaporated to dryness under reduced pressure. The residue was chromatographed over silica gel and eluted with a 8--2 mixture of hexane-ethyl ether to obtain 250 mg of (S)α-cyano-3-phenoxy-benzyl(1R,cis)2,2-dimethyl-3-[(Z)3-oxo-3-(1-methoxy-1-trifluoromethylethoxy)-1-propenyl]-cyclopropane-carboxylate with a melting point of 59° C. and a specific rotation of [α]D20 =+57°±2° (c=0.4% in benzene).

reactant | (S)α-cyano-3-phenoxy-benzyl(1R,cis)2,2-dimethyl-3-[(Z)3-chloro-3-oxo-1-propenyl)-cyclopropane-carboxylate | 1.02 g | CC1([C@@H]([C@@H]1\C=C/C(=O)Cl)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C23H20ClNO4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | (S)α-cyano-3-phenoxy-benzyl(1R,cis)2,2-dimethyl-3-[(Z)3-hydroxy-3-oxo-1-propenyl]-cyclopropane-carboxylate | CC1([C@@H]([C@@H]1\C=C/C(=O)O)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C23H21NO5
reactant | 1-methyl-1-trifluoromethyl-ethanol | 1.12 g | CC(C)(O)C(F)(F)F | C4H7F3O
solvent | methylene chloride | 9 ml | C(Cl)Cl | CH2Cl2
product | (S)α-cyano-3-phenoxy-benzyl(1R,cis)2,2-dimethyl-3-[(Z)3-oxo-3-(1-methoxy-1-trifluoromethylethoxy)-1-propenyl]-cyclopropane-carboxylate | 250 mg | CC1([C@@H]([C@@H]1\C=C/C(OC(C)(C(F)(F)F)OC)=O)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C27H26F3NO6
